US06204277B1
Methyl 2-methylcarbamoyl-3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]propionate
Dimethyl 2-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyl]malonate (3.00 g, 7.08 mmol) synthesized according to the method described in WO95/18125 was dissolved in methanol-tetrahydrofuran (1:1, 100 ml), and 40% aqueous methylamine solution (50 ml) was added. The mixture was stirred at room temperature for 0.5 hr. The reaction mixture was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (developing solvent; n-hexane:ethyl acetate=1:2) to give the title compound (1.50 g, yield 50%) as a white solid.

reactant | Dimethyl 2-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyl]malonate | 7.08 mmol, 3.00 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(CC(C(=O)OC)C(=O)OC)C=C1 | C24H25NO6
reactant | methylamine | 50 ml | CN | CH5N
solvent | methanol tetrahydrofuran | 100 ml | CO.O1CCCC1
product | Methyl 2-methylcarbamoyl-3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]propionate | 1.50 g, yield 50% | CNC(=O)C(C(=O)OC)CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C24H26N2O5
